US07906549B2
1-({6-[3-(4-chlorophenyl)propoxy]-3,4-dihydro-2-naphthalenyl}methyl)-3-azetidinecarboxylic acid
Azetidine-3-carboxylic acid (46 mg) and sodium hydroxide (18 mg) were dissolved in methanol (4 mL). To this solution, trimethoxymethane (0.050 mL) and a tetrahydrofuran (1 mL)-methanol (1 mL) mixed solution of 6-[3-(4-chlorophenyl)propoxy]-3,4-dihydronaphthalene-2-carboaldehyde (100 mg) were successively added under ice cooling. The reaction mixture was stirred for 3.5 hours under ice cooling. To the reaction mixture, sodium borohydride (17 mg) was added under ice cooling. The reaction mixture was stirred under ice cooling for 20 minutes. Thereafter, 4 mol/L hydrogen chloride/ethyl acetate solution was added until it was neutral, and concentrated. The obtained residue was purified by flash silica gel column chromatography (chloroform:methanol:aqueous ammonia=80:10:1 to 80:20:4), to thereby obtain the title compound (79 mg) having the following physical properties.

reactant | Azetidine-3-carboxylic acid | 46 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | sodium hydroxide | 18 mg | [OH-].[Na+]
reactant | trimethoxymethane | 0.050 mL | COC(OC)OC | C4H10O3
reactant | 6-[3-(4-chlorophenyl)propoxy]-3,4-dihydronaphthalene-2-carboaldehyde | 100 mg | ClC1=CC=C(C=C1)CCCOC=1C=C2CCC(=CC2=CC1)C=O | C20H19ClO2
reactant | sodium borohydride | 17 mg | [BH4-].[Na+]
reactant | hydrogen chloride ethyl acetate | 4 mol/L | Cl.C(C)(=O)OCC
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-({6-[3-(4-chlorophenyl)propoxy]-3,4-dihydro-2-naphthalenyl}methyl)-3-azetidinecarboxylic acid | 79 mg | ClC1=CC=C(C=C1)CCCOC=1C=C2CCC(=CC2=CC1)CN1CC(C1)C(=O)O | C24H26ClNO3
